US04504483
A diazonium salt is formed by reacting 2-chloro-5-amino- 6-phenoxypyridine with butyl nitrite in the presence of HPF6 and is decomposed by heating (Baltz-Schiemann reaction) to obtain 2-chloro-5-fluoro-6-phenoxypyridine. The obtained product is reacted with magnesium and then with a formylating agent such as dimethylformamide to obtain 5-fluoro-6-phenoxy picolinic aldehyde. In the case where cyano(5-fluoro-6-phenoxy-2-pyridyl) methyl alcohol is required, it is prepared by reacting the aldehyde with sodiumbisulfite and then with a cyanide compound such as sodium cyanide.

reactant | 2-chloro-5-amino- 6-phenoxypyridine | ClC1=NC(=C(C=C1)N)OC1=CC=CC=C1 | C11H9ClN2O
reactant | butyl nitrite | N(=O)OCCCC | C4H9NO2
reactant | HPF6 | [H+].F[P-](F)(F)(F)(F)F
product | 2-chloro-5-fluoro-6-phenoxypyridine | ClC1=NC(=C(C=C1)F)OC1=CC=CC=C1 | C11H7ClFNO
